US06040321
F. Preparation of [[2-(acetylamino)-5-thiazolyl]thio]acetic acid 1,1-dimethylethyl ester
To a mixture of 2-acetamino-5-thiocyanatothiazole (5.97 g, 30 mmol) in MeOH (360 mL) under argon was added dithiothreitol (9.26 g, 60 mmol) at rt. The mixture was stirred at rt for 2 h and it was concentrated to afford a reduced solid product. This solid product was dissolved in DMF (30 mL) and to this solution were added tert-butyl bromoacetate (5.85 g, 30 mmol) and potassium carbonate (5.0 g, 36 mmol). The mixture was stirred at rt for 2 h and water (200 mL) was added to the mixture. The precipitates were collected, washed with water and dried. The solid was dissolved in methylene chloride (100 mL) and MeOH (10 mL) and filtered through a silica gel pad. The filtrate solution was concentrated to afford the desired product (7.5 g, 87%) as a solid, mp 162-163° C. 1H NMR (CDCl3) δ12.2 (s, 1 H), 7.48 (s, 1 H), 3.37 (s, 2 H), 2.32 (s, 3 H), 1.45 (s, 9 H); MS m/e 289 (M+H)+, 287 (M-H)-. HPLC (Column: YMC S3 ODS 4.6×150 mm; flow rate: 2.5 mL/min; solvent system: 0-100% B in 8 min. Solvent A: 10% MeOH-90% water-0.2% H3PO4 ; Solvent B: 90% MeOH-10% Water-0.2% H3PO4 ; UV: 220 nm): retention time 6.44 min.

reactant | 2-acetamino-5-thiocyanatothiazole | 30 mmol, 5.97 g | N(C(=O)C)C=1SC(=CN1)SC#N | C6H5N3OS2
reactant | dithiothreitol | 60 mmol, 9.26 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | tert-butyl bromoacetate | 30 mmol, 5.85 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 36 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 360 mL | CO | CH4O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | [[2-(acetylamino)-5-thiazolyl]thio]acetic acid 1,1-dimethylethyl ester | 7.5 g, 87% | CC(C)(C)OC(CSC1=CN=C(S1)NC(C)=O)=O | C11H16N2O3S2
